### PR TITLE
feature(Analysis/SpecialFunctions/Complex/Log): exp_mul_I_injOn

### PR DESCRIPTION
**Pull request by mans0954**
$e^{θi}$ is injective on `(-π, π]`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by fbarroero** [comment]
A few hours ago I created #23167. I did not see this PR, sorry.
It seems to me that my `injOn_circleMap_of_abs_sub_le` generalises your `exp_mul_I_injOn`.

**Comment by mans0954** [comment]
> It seems to me that my `injOn_circleMap_of_abs_sub_le` generalises your `exp_mul_I_injOn`.

@fbarroero yes - my result can be recovered as a special case of yours:
```
theorem exp_mul_I_injOn : (Set.Ioc (-π) π).InjOn (fun (θ : ℝ) => exp (θ * I))  := by
  have e1 : circleMap 0 1 = fun (θ : ℝ) => exp (θ * I) := by
    ext θ
    simp only [circleMap, ofReal_one, one_mul, zero_add]
  rw [← e1]
  rw [← uIoc_of_le (by
    rw [neg_le_iff_add_nonneg, ← two_mul]
    exact mul_nonneg zero_le_two Real.pi_nonneg)]
  apply injOn_circleMap_of_abs_sub_le (zero_ne_one' ℝ).symm
  rw [← abs_neg, neg_sub, sub_neg_eq_add, ← two_mul, abs_mul, abs_of_pos zero_lt_two,
      abs_of_pos Real.pi_pos]
```
I expect this argument could be refined with some more work, but perhaps it is not entirely obvious?

I wonder if the definition of `circleMap` and the basic results about it should be moved somewhere lower down in the import hierarchy as it may be useful in contexts where integration isn't required?

**Comment by fbarroero** [comment]
> > It seems to me that my `injOn_circleMap_of_abs_sub_le` generalises your `exp_mul_I_injOn`.
> 
> @fbarroero yes - my result can be recovered as a special case of yours:
> 
> ```
> theorem exp_mul_I_injOn : (Set.Ioc (-π) π).InjOn (fun (θ : ℝ) => exp (θ * I))  := by
>   have e1 : circleMap 0 1 = fun (θ : ℝ) => exp (θ * I) := by
>     ext θ
>     simp only [circleMap, ofReal_one, one_mul, zero_add]
>   rw [← e1]
>   rw [← uIoc_of_le (by
>     rw [neg_le_iff_add_nonneg, ← two_mul]
>     exact mul_nonneg zero_le_two Real.pi_nonneg)]
>   apply injOn_circleMap_of_abs_sub_le (zero_ne_one' ℝ).symm
>   rw [← abs_neg, neg_sub, sub_neg_eq_add, ← two_mul, abs_mul, abs_of_pos zero_lt_two,
>       abs_of_pos Real.pi_pos]
> ```
> 
> I expect this argument could be refined with some more work, but perhaps it is not entirely obvious?
> 
> I wonder if the definition of `circleMap` and the basic results about it should be moved somewhere lower down in the import hierarchy as it may be useful in contexts where integration isn't required?

I totally agree with that! I wanted to offer help but I see you have already done that! That's great!

File: Mathlib/Analysis/SpecialFunctions/Complex/Log.lean [hunk 1]
```diff
@@ -56,6 +56,15 @@ theorem exp_inj_of_neg_pi_lt_of_le_pi {x y : ℂ} (hx₁ : -π < x.im) (hx₂ :
...
   rw [← log_exp hx₁ hx₂, ← log_exp hy₁ hy₂, hxy]
 
+theorem exp_mul_I_injOn : Set.InjOn (fun (θ : ℝ) => exp (θ * I)) (Set.Ioc (-π) π) :=
+    fun _ hx _ hy he => by
+  rw [← ofReal_inj, ← mul_left_inj' I_ne_zero]
+  rw [Set.mem_Ioc] at hx
+  rw [Set.mem_Ioc] at hy
+  exact exp_inj_of_neg_pi_lt_of_le_pi (by rw [mul_I_im_ofReal]; exact hx.1)
+    (by rw [mul_I_im_ofReal]; exact hx.2) (by rw [mul_I_im_ofReal]; exact hy.1)
+    (by rw [mul_I_im_ofReal]; exact hy.2) he
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Complex/Log.lean:66]:
```suggestion
theorem exp_mul_I_injOn : Set.InjOn (fun θ : ℝ ↦ exp (θ * I)) (Ioc (-π) π) := by
  intro x hx y hy he
  suffices x * I = y * I by aesop
  refine exp_inj_of_neg_pi_lt_of_le_pi ?_ ?_ ?_ ?_ he
  all_goals aesop
```

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -265,6 +265,18 @@ theorem I_mul_re (z : ℂ) : (I * z).re = -z.im := by simp
 
 theorem I_mul_im (z : ℂ) : (I * z).im = z.re := by simp
 
+theorem mul_I_re_ofReal (z : ℝ) : (z * I).re = 0 := by
+  rw [mul_I_re, ofReal_im, neg_zero]
```
Comment (j-loreaux) [inline Mathlib/Data/Complex/Basic.lean:269]: All of these are currently provable using `by simp`. Do we really need them?

**Comment by j-loreaux** [comment]
the outcome of the `circleMap` discussion was not clear to me either.

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Data/Complex/Basic.lean]: I moved them into #23165 and then decided against them.

**Comment by mans0954** [comment]
> the outcome of the `circleMap` discussion was not clear to me either.

This result should now be a corollary of one of the results in `Analysis/SpecialFunctions/Complex/CircleMap`.

I'm open to being persuaded that it's no longer needed.

**Comment by mans0954** [comment]
> I'm open to being persuaded that it's no longer needed.

I haven't found a use for this PR so closing.
